* source P1_2023_MUNTEANU_LORENA
R_R16         N137859 N138507  1 TC=0,0 
Q_Q4         N137685 N137677 N137543 QBC856B 
R_R18         0 N138289  1.5k TC=0,0 
C_C2         0 N137891  100  TC=0,0 
R_R11         N137997 N138781  82 TC=0,0 
V_VCC         N137451 0 10.5Vdc
R_R2         N138129 N137829  68 TC=0,0 
Q_Q1         N138327 N138295 N138123 QBC856B 
Q_Q9         N138331 N138331 N138781 QBC846B 
R_R12         0 N138179  1k TC=0,0 
X_R7         N137937 N137937 N137853 POT PARAMS: SET=0.5 VALUE=100
R_R13         N138183 N138179  2.2k TC=0,0 
D_D12         N137677 N137451 BZX84-C5V1 
R_R9         N137997 N138819  22 TC=0,0 
Q_Q7         N137997 N138565 N138507 QBC856B 
R_R15         N137859 N137725  1 TC=0,0 
R_R17         0 N137569  1.5k TC=0,0 
R_R4         N137671 N137451  820 TC=0,0 
R_R10         N137997 N138775  82 TC=0,0 
Q_Q8         N138327 N138331 N138775 QBC846B 
R_R21         0 N138359  33 TC=0,0 
C_C1         N138565 N138327  47p  TC=0,0 
Q_Q3         N137829 N137677 N137671 QBC856B 
L_L1         N137891 0  100  
R_R6         N137853 N137685  10 TC=0,0 
R_R8         N138565 N137937  10 TC=0,0 
R_R3         0 N137677  4.7k TC=0,0 
R_R1         N138123 N137829  68 TC=0,0 
R_R20         N138359 N137859  51 TC=0,0 
Q_Q5         N137451 N137685 N137725 QBC846B 
R_R19         N138295 0  220k TC=0,0 
R_R14         N137859 N138183  6.8k TC=0,0 
Q_Q2         N138331 N138179 N138129 QBC856B 
R_R5         N137543 N137451  470 TC=0,0 
D_D18         N137451 N137569 SMLS14BET 
V_VEE         0 N137997 10.5Vdc
D_D17         N138289 N137997 SMLS14BET 
Q_Q6         N138565 N138327 N138819 QBC846B 
V_V1         N138295 0  AC 850m
+SIN 0 850m 1k 0 0 0
